### PR TITLE
[Merged by Bors] - feat(Data/Matrix): matrices with entries in a set

### PR DESCRIPTION
**Pull request by bwangpj**
Define the `Set`/`AddSubmonoid`/`AddSubgroup`/`Subring`/`Submodule`/`Subalgebra` of matrices with entries in a `Set`/`AddSubmonoid`/`AddSubgroup`/`Subring`/`Submodule`/`Subalgebra`. 

[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Set.2Ematrix/near/527826651)

Co-authored-by: Kevin Buzzard <k.buzzard@imperial.ac.uk>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/Defs.lean [hunk 1]
```diff
@@ -565,3 +566,16 @@ lemma col_transpose (A : Matrix m n α) : Aᵀ.col = A.row := rfl
...
+
+namespace Set
+
+variable {ι₁ ι₂ : Type*} {X : Type*}
+
+/-- Given a set `S`, `S.matrix` is the set of matrices `m`
+all of whose entries `m i j` belong to `S`. -/
+def matrix (S : Set X) : Set (Matrix ι₁ ι₂ X) := {m | ∀ i j, m i j ∈ S}
+
+@[simp] theorem mem_matrix (S : Set X) {m : Matrix ι₁ ι₂ X} :
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Defs.lean]: Can you prove that the transpose and submatrix is also in the set?

File: Mathlib/Data/Matrix/Basic.lean [hunk 2]
```diff
@@ -623,6 +623,57 @@ we can get rid of the `ᵒᵖ` in the left-hand side, see `Matrix.transposeAlgEq
...
+
+variable {R : Type*} [Ring R]
+variable {ι : Type*} [Fintype ι] [DecidableEq ι]
+
+/-- A version of `Set.matrix` for `Subring`s.
+Given a `Subring` `S`, `S.matrix` is the `Subring` of square matrices `m`
+all of whose entries `m i j` belong to `S`. -/
+def matrix (S : Subring R) :
+    Subring (Matrix ι ι R) where
+      __ := S.toAddSubgroup.matrix
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean]: A style nit:
```suggestion
  __ := S.toAddSubgroup.matrix
```
(and the lines below)

File: Mathlib/Data/Matrix/Basic.lean [hunk 3]
```diff
@@ -623,6 +623,57 @@ we can get rid of the `ᵒᵖ` in the left-hand side, see `Matrix.transposeAlgEq
...
+namespace Subring
+
+variable {R : Type*} [Ring R]
+variable {ι : Type*} [Fintype ι] [DecidableEq ι]
+
+/-- A version of `Set.matrix` for `Subring`s.
+Given a `Subring` `S`, `S.matrix` is the `Subring` of square matrices `m`
+all of whose entries `m i j` belong to `S`. -/
+def matrix (S : Subring R) :
+    Subring (Matrix ι ι R) where
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean]: Can you add `Subsemiring` too?

File: Mathlib/Data/Matrix/Defs.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Matrix/Defs.lean]: Another good thing to prove would be that `Matrix.single i j r \mem S.matrix \iff r \mem S \and 0 \mem S`

Comment (bwangpj) [reply Mathlib/Data/Matrix/Defs.lean]: > Another good thing to prove would be that `Matrix.single i j r \mem S.matrix \iff r \mem S \and 0 \mem S`

This isn't true verbatim for say 1x1 matrices - though I've added `Matrix.single_mem_matrix` which takes `0 \mem S` as assumption and proves `Matrix.single i j r \mem S.matrix \iff r \mem S`

File: Mathlib/Data/Matrix/Defs.lean [hunk 4]
```diff
@@ -565,3 +566,25 @@ lemma col_transpose (A : Matrix m n α) : Aᵀ.col = A.row := rfl
...
+@[simp] theorem mem_matrix (S : Set α) {M : Matrix m n α} :
+    M ∈ S.matrix ↔ ∀ i j, M i j ∈ S := .rfl
+
+end Set
+
+namespace Matrix
+
+variable {S : Set α}
+
+theorem transpose_mem_matrix {M : Matrix m n α} (hM : M ∈ S.matrix) : Mᵀ ∈ S.matrix := by simp_all
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Defs.lean]: Can you make this an Iff?

File: Mathlib/Data/Matrix/Defs.lean [hunk 5]
```diff
@@ -582,7 +582,9 @@ namespace Matrix
 
 variable {S : Set α}
 
-theorem transpose_mem_matrix {M : Matrix m n α} (hM : M ∈ S.matrix) : Mᵀ ∈ S.matrix := by simp_all
+theorem transpose_mem_matrix_iff {M : Matrix m n α} :
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Defs.lean:586]:
```suggestion
@[simp]
theorem transpose_mem_matrix_iff {M : Matrix m n α} :
```

File: Mathlib/Data/Matrix/Defs.lean [hunk 6]
```diff
@@ -565,3 +566,27 @@ lemma col_transpose (A : Matrix m n α) : Aᵀ.col = A.row := rfl
...
 
 end Matrix
+
+namespace Set
+
+/-- Given a set `S`, `S.matrix` is the set of matrices `M`
+all of whose entries `M i j` belong to `S`. -/
+def matrix (S : Set α) : Set (Matrix m n α) := {M | ∀ i j, M i j ∈ S}
+
+@[simp] theorem mem_matrix (S : Set α) {M : Matrix m n α} :
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Defs.lean]:
```suggestion
@[simp] theorem mem_matrix {S : Set α} {M : Matrix m n α} :
```
I think is the convention for Iffs

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Defs.lean]: I'd also be somewhat tempted to drop the `simp` here

File: Mathlib/Data/Matrix/Basic.lean [hunk 7]
```diff
@@ -623,6 +623,70 @@ we can get rid of the `ᵒᵖ` in the left-hand side, see `Matrix.transposeAlgEq
...
+
+/-- A version of `Set.matrix` for `Subsemiring`s.
+Given a `Subsemiring` `S`, `S.matrix` is the `Subsemiring` of square matrices `m`
+all of whose entries `m i j` belong to `S`. -/
+def matrix (S : Subsemiring R) :
+    Subsemiring (Matrix n n R) where
+  __ := S.toAddSubmonoid.matrix
+  mul_mem' ha hb i j := Subsemiring.sum_mem _ (fun k _ => Subsemiring.mul_mem _ (ha i k) (hb k j))
+  one_mem' i j := by
+    rw[Matrix.one_apply]
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean]: Can you extract `diagonal_mem_matrix` from this?

File: Mathlib/Data/Matrix/Defs.lean (hunk 6 above)
Comment (bwangpj) [reply Mathlib/Data/Matrix/Defs.lean]: > I'd also be somewhat tempted to drop the `simp` here

Sure, but actually I'm curious in general how to decide whether something should be tagged with `simp`?

File: Mathlib/Data/Matrix/Basic.lean (hunk 7 above)
Comment (bwangpj) [reply Mathlib/Data/Matrix/Basic.lean]: Not too sure what you mean by extracting `diagonal_mem_matrix` from this? I can certainly add `diagonal_mem_matrix`, similarly to `single_mem_matrix`.

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basic.lean]: If you add diagonal_mem_matrix, you can use it here in the proof, since `1` is defined as `diagonal 1`

File: Mathlib/Data/Matrix/Basic.lean [hunk 8]
```diff
@@ -623,6 +623,66 @@ we can get rid of the `ᵒᵖ` in the left-hand side, see `Matrix.transposeAlgEq
...
 
+namespace AddSubmonoid
+
+variable {A : Type*} [AddMonoid A]
+
+/-- A version of `Set.matrix` for `AddSubmonoid`s.
+Given an `AddSubmonoid` `S`, `S.matrix` is the `AddSubmonoid` of matrices `m`
+all of whose entries `m i j` belong to `S`. -/
+def matrix (S : AddSubmonoid A) :
+    AddSubmonoid (Matrix m n A) where
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean]: style nit (throughout): 
```suggestion
def matrix (S : AddSubmonoid A) : AddSubmonoid (Matrix m n A) where
```
since the lines are short and boring

File: Mathlib/Data/Matrix/Defs.lean [hunk 9]
```diff
@@ -565,3 +566,28 @@ lemma col_transpose (A : Matrix m n α) : Aᵀ.col = A.row := rfl
...
+
+variable {S : Set α}
+
+@[simp]
+theorem transpose_mem_matrix_iff {M : Matrix m n α} :
+    Mᵀ ∈ S.matrix ↔ M ∈ S.matrix := by
+  simp only [Set.mem_matrix, transpose_apply]; exact forall_comm
+
+theorem submatrix_mem_matrix {M : Matrix m n α} (hM : M ∈ S.matrix) {r : l → m} {c : o → n} :
+    (M.submatrix r c) ∈ S.matrix := by simp_all [Set.mem_matrix]
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Defs.lean]:
```suggestion
    M.submatrix r c ∈ S.matrix := by simp_all [Set.mem_matrix]
```

File: Mathlib/Data/Matrix/Defs.lean [hunk 10]
```diff
@@ -565,3 +566,28 @@ lemma col_transpose (A : Matrix m n α) : Aᵀ.col = A.row := rfl
...
+namespace Matrix
+
+variable {S : Set α}
+
+@[simp]
+theorem transpose_mem_matrix_iff {M : Matrix m n α} :
+    Mᵀ ∈ S.matrix ↔ M ∈ S.matrix := by
+  simp only [Set.mem_matrix, transpose_apply]; exact forall_comm
+
+theorem submatrix_mem_matrix {M : Matrix m n α} (hM : M ∈ S.matrix) {r : l → m} {c : o → n} :
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Defs.lean]: Is this true as an `Iff` too? Certainly it is when `r` and `c` are `Equiv`s.

Comment (bwangpj) [reply Mathlib/Data/Matrix/Defs.lean]: Yeah I did think about that when doing `transpose_mem_matrix_iff`, but I think that requires assumptions like `Nonempty l`, `Nonempty o`. I've added the converse as `mem_matrix_of_submatrix_mem_matrix` though!

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Defs.lean]: The version you have now doesn't look very useful to me, as we don't want the quantification in the hypothesis. I think we want one with `r` and `c` surjective instead, where I think the `Iff` is true.

Comment (bwangpj) [reply Mathlib/Data/Matrix/Defs.lean]: ok, I've done that!

**Comment by bwangpj** [comment]
I've also included `Set.matrix_isOpen`, which is the result that the set of finite matrices with entries in an open set is itself an open set.

File: Mathlib/Topology/Instances/Matrix.lean [hunk 11]
```diff
@@ -41,6 +43,18 @@ instance [TopologicalSpace R] : TopologicalSpace (Matrix m n R) :=
 instance [TopologicalSpace R] [T2Space R] : T2Space (Matrix m n R) :=
   Pi.t2Space
 
+theorem Set.matrix_isOpen [Fintype m] [Fintype n]
```
Comment (eric-wieser) [inline Mathlib/Topology/Instances/Matrix.lean]: I think `IsOpen.matrix` would be appropriate here.

**Comment by eric-wieser** [comment]
Can you add the `Submodule` and `Subalgebra` versions too?

**Comment by eric-wieser** [comment]
I had a collection of small suggestions that I made at https://github.com/bwangpj/mathlib4/pull/1; could you either take a look, or check the "allow maintainers to push changes" box here so that I can just push them directly?

File: Mathlib/Algebra/Algebra/Subalgebra/Matrix.lean [hunk 12]
```diff
@@ -0,0 +1,36 @@
...
+
+namespace Subalgebra
+
+variable {R A : Type*} [CommSemiring R] [Semiring A] [Algebra R A]
+variable {n : Type*} [Fintype n] [DecidableEq n]
+
+/-- A version of `Set.matrix` for `Subalgebra`s.
+Given a `Subalgebra` `S`, `S.matrix` is the `Subalgebra` of square matrices `m`
+all of whose entries `m i j` belong to `S`. -/
+def matrix (S : Subalgebra R A) : Subalgebra R (Matrix n n A) where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Subalgebra/Matrix.lean:32]: Please mention this and the module one in the PR description!

File: Mathlib/Topology/Instances/Matrix.lean [hunk 13]
```diff
@@ -41,6 +46,26 @@ instance [TopologicalSpace R] : TopologicalSpace (Matrix m n R) :=
...
+  use fun i ↦ {g | ∀ j, g j ∈ S}
+  refine ⟨fun i ↦ ⟨?_, hf i⟩, fun f hf ↦ by simpa using hf⟩
+  rw [isOpen_pi_iff']
+  intro g hg
+  use fun j ↦ S
+  exact ⟨fun j ↦ ⟨hS, hg j⟩, fun g hg ↦ by simp_all⟩
+
+theorem IsCompact.matrix [TopologicalSpace R] {S : Set R} (hS : IsCompact S) :
+    IsCompact (S.matrix : Set (Matrix m n R)) :=
+  isCompact_pi_infinite (fun _ => (isCompact_pi_infinite (fun _ => hS)))
```
Comment (eric-wieser) [inline Mathlib/Topology/Instances/Matrix.lean]:
```suggestion
  isCompact_pi_infinite fun _ => isCompact_pi_infinite fun _ => hS
```

File: Mathlib/Algebra/Algebra/Subalgebra/Matrix.lean [hunk 14]
```diff
@@ -0,0 +1,36 @@
...
+open Algebra
+
+namespace Subalgebra
+
+variable {R A : Type*} [CommSemiring R] [Semiring A] [Algebra R A]
+variable {n : Type*} [Fintype n] [DecidableEq n]
+
+/-- A version of `Set.matrix` for `Subalgebra`s.
+Given a `Subalgebra` `S`, `S.matrix` is the `Subalgebra` of square matrices `m`
+all of whose entries `m i j` belong to `S`. -/
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Subalgebra/Matrix.lean:30]:
```suggestion
all of whose entries `m i j` belong to `S`. -/
@[simps]
```
or with a `!` if lean complains.

File: Mathlib/Data/Matrix/Basic.lean [hunk 15]
```diff
@@ -623,6 +623,79 @@ we can get rid of the `ᵒᵖ` in the left-hand side, see `Matrix.transposeAlgEq
...
+end Subring
+
+namespace Submodule
+
+variable {R M : Type*} [Semiring R] [AddCommMonoid M] [Module R M]
+
+/-- A version of `Set.matrix` for `Submodule`s.
+Given a `Submodule` `S`, `S.matrix` is the `Submodule` of matrices `m`
+all of whose entries `m i j` belong to `S`. -/
+def matrix (S : Submodule R M) : Submodule R (Matrix m n M) where
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basic.lean:694]:
```suggestion
@[simps]
def matrix (S : Submodule R M) : Submodule R (Matrix m n M) where
```

File: Mathlib/Topology/Instances/Matrix.lean [hunk 16]
```diff
@@ -20,6 +20,11 @@ This file is a place to collect topological results about matrices.
 
 ## Main results
 
+* Sets of matrices:
+  * `IsOpen.matrix`: the set of finite matrices with entries in an open set
+  is itself an open set.
+  * `IsCompact.matrix`: the set of matrices with entries in a compact set
+  is itself a compact set.
```
Comment (eric-wieser) [inline Mathlib/Topology/Instances/Matrix.lean]:
```suggestion
  * `IsOpen.matrix`: the set of finite matrices with entries in an open set
    is itself an open set.
  * `IsCompact.matrix`: the set of matrices with entries in a compact set
    is itself a compact set.
```

File: Mathlib/Topology/Instances/Matrix.lean [hunk 17]
```diff
@@ -41,6 +46,26 @@ instance [TopologicalSpace R] : TopologicalSpace (Matrix m n R) :=
...
+    [TopologicalSpace R] {S : Set R} (hS : IsOpen S) :
+    IsOpen (S.matrix : Set (Matrix m n R)) := by
+  rw [isOpen_pi_iff']
+  intro f hf
+  use fun i ↦ {g | ∀ j, g j ∈ S}
+  refine ⟨fun i ↦ ⟨?_, hf i⟩, fun f hf ↦ by simpa using hf⟩
+  rw [isOpen_pi_iff']
+  intro g hg
+  use fun j ↦ S
+  exact ⟨fun j ↦ ⟨hS, hg j⟩, fun g hg ↦ by simp_all⟩
```
Comment (eric-wieser) [inline Mathlib/Topology/Instances/Matrix.lean]: Here's a shorter proof:
```lean-4
theorem IsOpen.matrix [Finite m] [Finite n]
    [TopologicalSpace R] {S : Set R} (hS : IsOpen S) :
    IsOpen (S.matrix : Set (Matrix m n R)) := by
  -- this should be a lemma
  have c : Continuous (@Matrix.of m n R).symm := continuous_id
  convert c.isOpen_preimage _ <|
    isOpen_set_pi Set.finite_univ fun _ _ => isOpen_set_pi Set.finite_univ fun _ _ => hS
  -- this might be a good lemma too
  ext
  simp [Set.mem_matrix_iff]
```

File: Mathlib/Topology/Instances/Matrix.lean
Comment (eric-wieser) [inline Mathlib/Topology/Instances/Matrix.lean:1]: If you revert these changes and move them to a new PR, I'd be happy to merge the rest modulo the `simps` comments; if the PR keeps growing while I review it there's a risk we'll never finish!

Comment (bwangpj) [reply Mathlib/Topology/Instances/Matrix.lean:1]: sure, will do!

**Comment by eric-wieser** [comment]
bors merge

Thanks!
